US07659245B2
4-Isopropylthiazole-2-carboxylic acid (6-carbamoyl-3-methoxy-2-methyl-phenyl)-amide (79)
To a stirred mixture of 2-amino-4-methoxy-3-methyl-benzamide (2.0 g, 11 mmol), 4-isopropyl-thiazole-2-carboxylic acid (2.4 g, 14 mmol) and Hobt-hydrate (2.2 g, 14 mmol) in dry DMF (80 ml) was added EDAC (2.88 g, 15 mmol) and TEA (2.1 ml, 15 mmol) and the mixture was stirred overnight. A 5% aqueous solution of citric acid was added and the mixture was extracted three times with ethyl acetate. The organic phase was washed with saturated sodium hydrogen carbonate solution (two times) and brine, dried with sodium sulfate and evaporated under reduced pressure which gave the title compound (3.1 g).

reactant | 2-amino-4-methoxy-3-methyl-benzamide | 11 mmol, 2.0 g | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | 4-isopropyl-thiazole-2-carboxylic acid | 14 mmol, 2.4 g | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
reactant | EDAC | 15 mmol, 2.88 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-Isopropylthiazole-2-carboxylic acid (6-carbamoyl-3-methoxy-2-methyl-phenyl)-amide | 3.1 g | C(N)(=O)C1=CC=C(C(=C1NC(=O)C=1SC=C(N1)C(C)C)C)OC | C16H19N3O3S
